US07714010B2
N-[5-(3,5-Difluoro-4-hydroxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide
N-[5-(3,5-Difluoro-4-isopropoxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide (90 mg; 0.18 mmol) is suspended in a BBr3 solution in CH2Cl2 (1 M; 600 μl ) and stirred at RT for 18 h. After addition of hydrochloric acid (300 μl; 1 N) the mixture is stirred at RT for another 1 h and then evaporated to dryness. The crude material is purified by preparative RP-HPLC, eluted with MeCN/water to yield the desired compound (27.7 mg).

reactant | N-[5-(3,5-Difluoro-4-isopropoxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 0.18 mmol, 90 mg | FC=1C=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CC=CC=C4)=O)(C)C)=O)C=C(C1OC(C)C)F | C28H26F2N4O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 1 N, 300 μl | Cl | ClH
solvent | CH2Cl2 | 1 M, 600 μl | C(Cl)Cl | CH2Cl2
product | N-[5-(3,5-Difluoro-4-hydroxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 27.7 mg | FC=1C=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CC=CC=C4)=O)(C)C)=O)C=C(C1O)F | C25H20F2N4O3
